US06022894
A cooled (-78 ° C.) solution of diisopropylamine (65 g, 642 mmol) in tetrahydrofuran (THF, 800 mL) was treated with 244 mL of 2.5M n-butyl lithium (610 mmol) in hexane. The reaction was stirred for 30 minutes at room temperature, cooled to -78° C. and treated dropwise with isobutyric acid (26.8 g, 305 mmol) and hexamethylphosphoramide (HMPA, 54.7 g, 305 mmol). The reaction was stirred for 30 minutes at room temperature and treated with 4-methoxybenzyl chloride (43.4 g, 277 mmol). The reaction was stirred for 48 hours at room temperature and treated with 10% HCl (200 mL). The reaction was concentrated to 300 mL and diluted to 600 mL with water. The resulting solution was extracted with diethyl ether (2×300 mL) and the combined ether extracts were washed with 10% HCl (2×200 mL). The ether extract was then extracted with 1N NaOH (3×200 mL). The combined 1N NaOH washes were made acidic (pH 1) by the addition of concentrated HCl, and the resulting solution was extracted with diethyl ether (3×300 mL). The combined ether extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated to afford 32.6 g of 2,2-dimethyl-3-(4-methoxyphenyl)propionic acid as an oil: GC/EI-MS, m/z (rel. int.) 208 (M+, 7), 121 (100), 91 (5), 77 (6).

reactant | diisopropylamine | 642 mmol, 65 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 610 mmol, 2.5M, 244 mL | C(CCC)[Li]
reactant | isobutyric acid | 305 mmol, 26.8 g | C(C(C)C)(=O)O | C4H8O2
reactant | hexamethylphosphoramide | 305 mmol, 54.7 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 4-methoxybenzyl chloride | 277 mmol, 43.4 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | HCl | 200 mL | Cl | ClH
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2,2-dimethyl-3-(4-methoxyphenyl)propionic acid | 32.6 g | CC(C(=O)O)(CC1=CC=C(C=C1)OC)C | C12H16O3
